US08030302B2
1,5-Dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid
To a mixture of 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carbaldehyde (2 g, 9.25 mmol) in water (100 mL) at 75° C. is added a solution of KMnO4 (1.5 g, 9.49 mmol) in water (200 mL) slowly. After the addition is complete, the reaction mixture is stirred at 75° C. for another 1 hour. Solid KOH is added to make the solution alkaline and the mixture is filtered while it is hot. To the filtrate is added EtOH (10 mL) and EtOAc (50 mL). The organic phase is separated and discarded. The aqueous phase is acidified with concentrated HCl to pH 5 and extracted with EtOAc (60 mL) and DCM (60 mL). The organic phases are combined, dried, and concentrated to give the title product (1.9 g, 88.46%yield). MS (m/z): 233.1 (M+H).

reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carbaldehyde | 9.25 mmol, 2 g | CN1N(C(C(=C1C)C=O)=O)C1=CC=CC=C1 | C12H12N2O2
reactant | KMnO4 | 9.49 mmol, 1.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | KOH | [OH-].[K+]
solvent | water | 100 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 1,5-Dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 1.9 g | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
